data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3255,3678,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[NH+:14]=[CH:15][C:16]#[N:17]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[NH:14][CH:15]2[C:16]#[N:17],water,298.15,9.047538229349874,-18.72996724791681
4157,4760,[CH3:9][NH:10][C:11](=[O:12])[c:13]1[o:14][c:15](=[O:16])[c-:17]([C:18]([CH3:19])=[O:20])[n+:21]1[CH3:22].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:17]2([C:18]([CH3:19])=[O:20])[C:15](=[O:16])[O:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[N:21]2[CH3:22],water,298.15,25.28946995028296,0.1674555809622324
3245,3667,[CH2:10]=[NH+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:12]([CH3:13])([C:14]([CH3:15])=[O:16])[NH:11][CH2:10]1,water,298.15,23.25141477484029,-10.11947682497344
3641,4160,[CH3:9][C:10](=[O:11])[C-:12]([N+:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:13]=[N:14]1,water,298.15,30.79394250779585,-2.489342419853319
5159,5857,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([C:21](=[O:22])[O:23][CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:20]([C:21](=[O:22])[O:23][CH3:24])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:18]([CH3:19])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,31.249275649163533,-14.631386658324733
3782,4332,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH-:8][N+:9]([CH3:10])=[C:11]([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:8]([CH3:7])[N:9]([CH3:10])[C:11]1([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,24.42246598103485,-10.021735619785831
418,456,[CH3:11][N:12]=[N+:13]([CH3:14])[N-:15][C:16](=[O:17])[O:18][CH3:19].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[N:15]([C:16](=[O:17])[O:18][CH3:19])[N:13]([CH3:14])[N:12]2[CH3:11],water,298.15,31.867442333476387,-23.5048546175962
1653,1825,[CH3:12][O:13][C:14](=[O:15])[C-:16]([NH+:17]=[C:18]([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1([F:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1>>[N:1]#[C:2][C:3]1([F:4])[C:5]2=[C:6]([CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1)[C:16]([C:14]([O:13][CH3:12])=[O:15])([C:26]([CH3:27])=[O:28])[NH:17][C:18]2([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,18.1998144308209,-41.0939651717454
3031,3388,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][c:6]1[o:7][c:8](=[O:9])[c-:10]([C:11]#[N:12])[n+:13]1[CH3:14]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:10]2([C:11]#[N:12])[C:8](=[O:9])[O:7][C:6]1([CH3:5])[N:13]2[CH3:14],water,298.15,28.74929586833268,1.4669856126865704
17,19,[CH2:10]=[NH+:11][CH-:12][CH3:13].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[CH:12]([CH3:13])[NH:11][CH2:10]3,water,298.15,10.600451111291504,-58.75085379463204
3124,3516,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH-:9][N+:10]([CH3:11])=[C:12]([CH3:13])[C:14]#[N:15]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[CH:9]([C:7]([NH:6][CH3:5])=[O:8])[N:10]([CH3:11])[C:12]1([CH3:13])[C:14]#[N:15],water,298.15,16.286692027914032,-33.6103541333891
3681,4202,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[CH:10]=[O+:11][C-:12]([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:12]([CH3:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[O:11][CH:10]1[C:8]([CH3:7])=[O:9],water,298.15,17.812737292131647,-34.345144385994764
539,589,[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19]#[N:20])[C:21]#[N:22].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[N:16]([CH3:17])[C:18]2([C:19]#[N:20])[C:21]#[N:22],water,298.15,27.84364137771193,-14.256300162464562
4543,5183,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)=[N+:22]([CH3:23])[NH-:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:22]([CH3:23])[NH:24]2,water,298.15,34.88514779878426,3.538500011982193
